US07312250B2
6-Bromo-2-isopropylphenol, made as described in Example 2, was reacted with CF3CF2COONa in the presence of CuI (Freskos J N, Synth Comm 18:965-972, 1988). This reaction resulted in the synthesis of 6-pentafluoroethyl-2-isopropylphenol.

reactant | 6-Bromo-2-isopropylphenol | BrC1=CC=CC(=C1O)C(C)C | C9H11BrO
reactant | CF3CF2COONa | C(F)(F)(F)C(F)(F)C(=O)O[Na]
catalyst | CuI | [Cu]I
product | 6-pentafluoroethyl-2-isopropylphenol | FC(C(F)(F)F)(C1=CC=CC(=C1O)C(C)C)F | C11H11F5O
